US05695684
To 35 ml of acetic acid, 2.5 g of 6-decyl-2-(4-methoxyphenyl)quinoline and 15 ml of 47%-hydrobromic acid were added, followed by stirring for 12 hours at 100° C. and further stirring overnight at room temperature. After the reaction, the reaction mixture was poured into water and subjected to extraction with chloroform. The organic layer was washed with water and dried with anhydrous sodium sulfate, followed by distilling-off of the solvent and purification by silica gel column chromatography to obtain 1.7 g of 6-decyl-2-(4-hydroxyphenyl)quinoline.

reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
reactant | 6-decyl-2-(4-methoxyphenyl)quinoline | 2.5 g | C(CCCCCCCCC)C=1C=C2C=CC(=NC2=CC1)C1=CC=C(C=C1)OC | C26H33NO
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 6-decyl-2-(4-hydroxyphenyl)quinoline | 1.7 g | C(CCCCCCCCC)C=1C=C2C=CC(=NC2=CC1)C1=CC=C(C=C1)O | C25H31NO
